US03932429
A mixture of 9.29 g of methyl 1-(3-methoxyphenyl)-3-oxo-cyclohexane-1-carboxylate, 5.5 ml of 40 % aqueous methylamine and 0.13 g of platinum oxide is shaken at room temperature for 5 hours in a hydrogen atmosphere under atmospheric pressure. The mixture absorbs about 790 ml of hydrogen. After the reaction, the mixture is filtered to remove the catalyst. The filtrate is concentrated under reduced pressure. The residue thus obtained is heated at 100° to 110°C for 2 hours under reduced pressure, and then dissolved in benzene. The benzene solution is washed with 10 % hydrochloric acid and water, successively. Then, the benzene solution is evaporated to remove solvent. The residue thus obtained is recrystallized from isopropylether. 5.8 g of 1-(3-methoxyphenyl)-6-methyl-6azabicyclo[3,2,1]octane-7-one are obtained. M.p. 68° - 70°C.

reactant | methyl 1-(3-methoxyphenyl)-3-oxo-cyclohexane-1-carboxylate | 9.29 g | COC=1C=C(C=CC1)C1(CC(CCC1)=O)C(=O)OC | C15H18O4
reactant | methylamine | 5.5 ml | CN | CH5N
reactant | hydrogen | [H][H] | H2
solvent | benzene | C1=CC=CC=C1 | C6H6
catalyst | platinum oxide | 0.13 g | [Pt]=O
product | 1-(3-methoxyphenyl)-6-methyl-6azabicyclo[3,2,1]octane-7-one | 5.8 g | COC=1C=C(C=CC1)C12CCCC(N(C1=O)C)C2 | C15H19NO2
